data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-C(F)(F)F_2-c1ccccc1_3-C_4-CCCC(C)C","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C(F)(F)F)C(=O)C(c1ccccc1)","O=CC(C)"],"products_smiles": ["C1(C)OC(CCCC(C)C)C(c1ccccc1)C(=O)C1(C(F)(F)F)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)C(=O)C(=C(C))(C(F)(F)F)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)=C(C(F)(F)F)C(=O)C(c1ccccc1)C(O)(CCCC(C)C)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)=C(C(F)(F)F)C(=[OH+])C(c1ccccc1)C(O)(CCCC(C)C)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C)C(C(F)(F)F)=C(O)C(c1ccccc1)C(CCCC(C)C)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)C(C(F)(F)F)=C(O)C(c1ccccc1)C(CCCC(C)C)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)OC(CCCC(C)C)C(c1ccccc1)C(=O)C1(C(F)(F)F)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-009_1-CC(C)C_2-C#N_3-c2ccc(N(=O)=O)cc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(CC(C)C)(C#N)C(=O)c1ccccc1OC(=O)c2ccc(N(=O)=O)cc2"],"products_smiles": ["c2ccc(N(=O)=O)cc2C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](CC(C)C)(C#N)C(=O)c1ccccc1OC(=O)c2ccc(N(=O)=O)cc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccc(N(=O)=O)cc2)C(CC(C)C)(C#N)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccc(N(=O)=O)cc2C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
